US07947715B2
Step 1: Preparation of 4-bromo-2,6-dichloro-1-(difluoromethoxy)benzene
To a stirred solution of 4-bromo-2,6-dichlorophenol (2.3 g) in acetonitrile (25 mL) was added potassium carbonate (1.3 g) and ethyl bromodifluoroacetate (3.8 g). The mixture was heated to reflux for 4 hours and then cooled to room temperature. The resulting mixture was poured into water (100 mL) and extracted with ethyl acetate (100 mL×1). The organic layer was washed with water and brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure to provide a residue. The residue was purified by column chromatography on silica gel eluted with ethyl acetate-hexane (1:4) to afford the title compound as yellow oil (2.4 g).

reactant | 4-bromo-2,6-dichlorophenol | 2.3 g | BrC1=CC(=C(C(=C1)Cl)O)Cl | C6H3BrCl2O
reactant | potassium carbonate | 1.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromodifluoroacetate | 3.8 g | BrC(C(=O)OCC)(F)F | C4H5BrF2O2
reactant | water | 100 mL | O | H2O
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | 4-bromo-2,6-dichloro-1-(difluoromethoxy)benzene | 2.4 g | BrC1=CC(=C(C(=C1)Cl)OC(F)F)Cl | C7H3BrCl2F2O
